* C:\Users\assis\Documents\trabalho-eletronica-I\simulação\Draft2.asc
S1 N008 N006 RST 0 SW1
I1 N008 0 56n
Rsh N008 0 5G
C1 N008 0 70p
V1 N006 0 3.3
V3 SEL1 0 PULSE(0 3 2.7m 0 0 0.85m 6.780m)
V2 RST 0 PULSE(0 3 0 0 0 1m 6.780m)
XU1 N003 N008 N004 opamp Aol=100K GBW=10Meg
R4 0 N003 9.9k
R5 N004 N003 5.1k
S2 N009 N002 SEL2 0 SW4
S3 N007 N005 RST 0 SW3
I2 N007 0 45n
Rsh1 N007 0 5G
C2 N007 0 70p
V4 N005 0 3.3
V5 SEL2 0 PULSE(0 3 3.72m 0 0 0.85m 6.780m)
XU2 N001 N007 N002 opamp Aol=100K GBW=10Meg
R1 0 N001 9.9k
R2 N002 N001 5.1k
S4 N020 N018 RST 0 SW5
I3 N020 0 38n
Rsh2 N020 0 5G
C3 N020 0 70p
V7 N018 0 3.3
V8 SEL3 0 PULSE(0 3 4.74m 0 0 0.85m 6.780m)
XU3 N015 N020 N016 opamp Aol=100K GBW=10Meg
R3 0 N015 9.9k
R6 N016 N015 5.1k
S5 N019 N017 RST 0 SW7
I4 N019 0 75n
Rsh3 N019 0 5G
C4 N019 0 70p
V10 N017 0 3.3
V11 SEL4 0 PULSE(0 3 5.76m 0 0 0.85m 6.780m)
XU4 N013 N019 N014 opamp Aol=100K GBW=10Meg
R7 0 N013 9.9k
R8 N014 N013 5.1k
S6 N009 N014 SEL4 0 SW8
S7 N009 N016 SEL3 0 SW6
S8 N009 N004 SEL1 0 SW2
.tran 0 8m 0 10u
.model SW3 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.lib opamp.txt
.lib opamp.sub
.model SW4 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW5 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW6 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW7 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW8 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW1 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW2 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.backanno
.end
