* C:\Users\assis\Documents\trabalho-eletronica-I\simulação\Draft2.asc
S1 FD1 N006 RST 0 SW1
I1 FD1 0 56n
Rsh FD1 0 5G
C1 FD1 0 70p
V1 N006 0 3.3
V3 SEL1 0 PULSE(0 3 2.7m 0 0 0.85m 6.780m)
V2 RST 0 PULSE(0 3 0 0 0 1m 6.780m)
XU1 N003 FD1 N004 opamp Aol=100K GBW=10Meg
R4 0 N003 9.9k
R5 N004 N003 5.1k
S2 N007 N002 SEL2 0 SW4
S3 FD2 N005 RST 0 SW3
I2 FD2 0 45n
Rsh1 FD2 0 5G
C2 FD2 0 70p
V4 N005 0 3.3
V5 SEL2 0 PULSE(0 3 3.72m 0 0 0.85m 6.780m)
XU2 N001 FD2 N002 opamp Aol=100K GBW=10Meg
R1 0 N001 9.9k
R2 N002 N001 5.1k
S4 FD3 N016 RST 0 SW5
I3 FD3 0 38n
Rsh2 FD3 0 5G
C3 FD3 0 70p
V7 N016 0 3.3
V8 SEL3 0 PULSE(0 3 4.74m 0 0 0.85m 6.780m)
XU3 N013 FD3 N014 opamp Aol=100K GBW=10Meg
R3 0 N013 9.9k
R6 N014 N013 5.1k
S5 FD4 N015 RST 0 SW7
I4 FD4 0 75n
Rsh3 FD4 0 5G
C4 FD4 0 70p
V10 N015 0 3.3
V11 SEL4 0 PULSE(0 3 5.76m 0 0 0.85m 6.780m)
XU4 N011 FD4 N012 opamp Aol=100K GBW=10Meg
R7 0 N011 9.9k
R8 N012 N011 5.1k
S6 SAIDA N012 SEL4 0 SW8
S7 SAIDA N014 SEL3 0 SW6
S8 SAIDA N004 SEL1 0 SW2
.tran 0 8m 0 10u
.model SW3 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.lib opamp.txt
.lib opamp.sub
.model SW4 SW(Ron=100u Roff=5000000000000000Tera Vt=2.99 Vh=0)
.model SW5 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW6 SW(Ron=100u Roff=5Tera Vt=2.99 Vh=0)
.model SW7 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW8 SW(Ron=100u Roff=5Tera Vt=2.99 Vh=0)
.model SW1 SW(Ron=100u Roff=5Meg Vt=2.99 Vh=0)
.model SW2 SW(Ron=100u Roff=5Tera Vt=2.99 Vh=0)
.backanno
.end
